US09034866B2
Synthesis of (±)-2-(1H-1,2,4-triazol-3-yl)but-3-yn-2-ol
This compound was prepared according to a procedure similar to that described in Procedure A. Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed ethynylmagnesium bromide (45 mL, 2.50 equiv). This was followed by the addition of a solution of 1-(1H-1,2,4-triazol-3-yl)ethan-1-one (1000 mg, 9.00 mmol, 1.00 equiv) in THF (2 mL) dropwise with stirring at 0° C. The resulting solution was stirred for 10 min at 0° C. The resulting solution was allowed to react with stiffing for an additional 6 h at room temperature. The reaction was then quenched by the addition of 10 mL of sat. aq. NH4Cl. The resulting solution was extracted with 2×50 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate. The residue was applied onto a silica gel column with petroleum ether:ethyl acetate (1:1). This resulted in 0.4 g (32%) of 2-(1H-1,2,4-triazol-3-yl)but-3-yn-2-ol as a white solid.

reactant | ethynylmagnesium bromide | 45 mL, 2.50 equiv | C(#C)[Mg]Br
reactant | 1-(1H-1,2,4-triazol-3-yl)ethan-1-one | 9.00 mmol, 1000 mg, 1.00 equiv | N1N=C(N=C1)C(C)=O | C4H5N3O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (±)-2-(1H-1,2,4-triazol-3-yl)but-3-yn-2-ol | N1N=C(N=C1)C(C)(C#C)O | C6H7N3O
